US05486611
Preparation 8: 8-bromo-1,2,3,4-tetrahydro-1-(3-hydroxypropyl)-2-hydroxynaphthalene (B-3, Chart B)
A solution of 8-bromo-1,2,3,4-tetrahydro-2-oxo-naphthalenepropionic acid methyl ester (B-2, 31.12 g, 0.100 mol) in diethylether (100 mls) was added to an ice-cooled suspension of lithium aluminum hydride (8.0 g, 0.21 mol) with stirring. The cold bath was removed, and the mixture was stirred at room temperature for 2 hours. The mixture was cooled in ice, and water (8.0 mls), 15% NaOH (8.0 mls), and water 24.0 mls) were added in succession. The mixture was stirred at room temperature for two hours and filtered. The precipitate was washed with tetrahydrofuran, and the combined flitrate was dried (MgSO4, and the solvent was removed under vacuum to leave the title compound as an oil (B-3, 29.2 g, 100%). NMR (CDCl3, TMS) δ1.35 (m, 1H), 1.7-2.1 (M,5H), 2.7-3.15 (m, 3H), 3.35-3.45 (m, 1H), 3.45-3.57 (m, 1H), 3.57-3.82 (m,2H), 4.0-4.15 (m,1H), 6.9-7.1 (m,2H), 7.38 (dd, 1H). IR (Major peaks) 3345, 3055, 1591, 1559, 1454, 1433, 1060, 767. Mass spec. m+at m/z 284, 285.

reactant | 8-bromo-1,2,3,4-tetrahydro-2-oxo-naphthalenepropionic acid methyl ester | 0.100 mol, 31.12 g | COC(CCC1C(CCC2=CC=CC(=C12)Br)=O)=O | C14H15BrO3
reactant | lithium aluminum hydride | 0.21 mol, 8.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethylether | 100 mls | C(C)OCC | C4H10O
product | 8-bromo-1,2,3,4-tetrahydro-1-(3-hydroxypropyl)-2-hydroxynaphthalene | 29.2 g, 100% | BrC=1C=CC=C2CCC(C(C12)CCCO)O | C13H17BrO2
